US04182776
2-(2-Naphthyloxy)ethanol
A solution of 14.4 g of 2-naphthol, 12.1 g of 2-bromoethanol and 5.9 g of sodium methoxide in 100 ml of ethanol is allowed to stand two days at room temperature. The solvent is removed under vacuum and the residue extracted with ether. The ether extract is washed with water dried (magnesium sulfate) and the solvent removed under vacuum to give crystals, mp 65°-70° C.

reactant | 2-naphthol | 14.4 g | C1=C(C=CC2=CC=CC=C12)O | C10H8O
reactant | 2-bromoethanol | 12.1 g | BrCCO | C2H5BrO
reactant | sodium methoxide | 5.9 g | C[O-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-(2-Naphthyloxy)ethanol | C1=C(C=CC2=CC=CC=C12)OCCO | C12H12O2
